US06362211B1
b) 4-(3-Methyl-2,3,3a,8-tetrahydro-1H-cyclopenta[a]inden-8a-yl)-1H-imidazole
4-(3-Methylene-2,3,3a,8-tetrahydro-1H-cyclopenta[a]inden-8a-yl)-1H-imidazole (0.23 g) was dissolved in 20 ml of ethanol and the mixture was hydrogenated at 50-55° C. with 10% palladium on carbon as catalyst until no more hydrogen was consumed. The catalyst was filtered off and the solvent removed under reduced pressure. The residue was crystallized from ethyl acetate. The yield was 0.14 g, m.p. 168-172° C.

reactant | 4-(3-Methylene-2,3,3a,8-tetrahydro-1H-cyclopenta[a]inden-8a-yl)-1H-imidazole | 0.23 g | C=C1CCC2(C1C=1C=CC=CC1C2)C=2N=CNC2 | C16H16N2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 4-(3-Methyl-2,3,3a,8-tetrahydro-1H-cyclopenta[a]inden-8a-yl)-1H-imidazole | CC1CCC2(C1C=1C=CC=CC1C2)C=2N=CNC2 | C16H18N2
